US09233933B2
To a mixture of zinc powder (704 mg, 10.8 mmol) in dry THF (50 mL) under nitrogen atmosphere, 1,2 dibromoethane (0.016 mL, 0.181 mmol) followed by trimethylchlorosilane (114 mg, 1.05 mmol) were added. A solution of 2-bromo-5-fluoro-benzaldehyde (2.13 g 10.50 mmol) and ethylbromodifluoroacetate (2.13 g, 10.50 mmol) in THF (25 mL) were added and the reaction mixture was refluxed overnight. The mixture was cooled and poured in ice/water (250 mL). HCl 1M (100 mL) was added while stirring. The mixture was stirred 1 hour and extracted with t-Butylmethylether (200 mL). The organic layer was separated, dried over sodium sulphate, filtered and concentrated. The obtained residue was purified by column chromatography on silica using a gradient from 5 till 100% EtOAc in heptane. The product fractions were combined and concentrated in vacuo yielding ethyl 3-(2-bromo-5-fluorophenyl)-2,2-difluoro-3-hydroxypropanoate (1096 mg). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35 (t, J=7.0 Hz, 3H), 4.37 (q, J=7.0 Hz, 2H), 5.72 (ddd, J=15.7, 6.1, 1.0 Hz, 1H), 6.99 (ddd, J=8.8, 7.7, 3.1 Hz, 1H), 7.39 (ddd, J=9.5, 3.1, 1.0 Hz, 1H), 7.54 (dd, J=8.8, 5.3 Hz, 1H) The procedure was repeated on a larger scale of 2-bromo-5-fluoro-benzaldehyde (71.2 g, 351 mmol) yielding ethyl 3-(2-bromo-5-fluoro-phenyl)-2,2-difluoro-3-hydroxy-propanoate (86 g). DAST (48.3 mL, 394.4 mmol) was added dropwise to a solution of ethyl 3-(2-bromo-5-fluoro-phenyl)-2,2-difluoro-3-hydroxy-propanoate (86 g) in dichloromethane (500 mL) during 15 minutes in an icebath. The reaction mixture was stirred and allowed to reach room temperature overnight. The mixture was slowly added to a vigorously stirred saturated NaHCO3 solution (1.5 L) over 15 minutes. The mixture was stirred for 30 minutes more. The organic layer was dried over magnesium sulphate, filtered and concentrated yielding ethyl 3-(2-bromo-5-fluorophenyl)-2,2,3-trifluoropropanoate (78.0 g) as a light brown oil which was used as such. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.38 (t, J=7.2 Hz, 3H), 4.37-4.44 (m, 2H), 6.19-6.41 (m, 1H), 7.01-7.10 (m, 1H), 7.29-7.37 (m, 1H), 7.58 (ddd, J=8.9, 5.1, 1.2 Hz, 1H). Ethyl 3-(2-bromo-5-fluoro-phenyl)-2,2,3-trifluoro-propanoate (55.4 g 163.5 mmol), lithium hydroxide (3.92 g, 163.5 mmol), THF (100 mL) and distilled water (200 mL) were stirred 5 minutes at room temperature resulting in a clear solution (1 layer). The reaction mixture was acidified with HCl 1M (164 mL). The resulting emulsion was extracted with CH2Cl2 (500 mL). The organic layer was dried over sodium sulphate, filtered and concentrated yielding a light brown oil (58.7 g). To part of this oil (52.5 g) in dichloromethane (2.6 L) and DMF (7 mmol), oxalylchloride (89.3 g) was added during 15 minutes and the mixture was stirred overnight. The reaction mixture was concentrated, yielding a light brown oil which was used as such. To this oil in dichloromethane (1000 mL), N,O-dimethylhydroxylamine hydrochloride (16.07 g, 149.8 mmol) and sodium carbonate (17.46 g, 164.8 mmol) were added and the mixture was stirred for 90 minutes. Water (500 mL) was added and the mixture was stirred for 5 minutes. The organic layer was separated, dried over MgSO4, filtered and concentrated. The residue was purified by silica gel column chromatography using a gradient from 0 till 10% CH3OH in CH2Cl2. The product fractions were combined and concentrated resulting in 3-(2-bromo-5-fluorophenyl)-2,2,3-trifluoro-N-methoxy-N-methylpropanamide (37.1 g). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.32 (s, 3H), 3.82 (s, 3H), 6.41-6.64 (m, 1H), 7.01-7.07 (m, 1H), 7.34-7.41 (m, 1H), 7.56 (ddd, J=8.9, 5.2, 1.1 Hz, 1H). Buthyllithium (49.5 mL, 1.6M in hexanes) was added during 30 minutes at −70° C. to a solution of 3-(2-bromo-5-fluoro-phenyl)-2,2,3-trifluoro-N-methoxy-N-methylpropanamide (25.9 g, 75.4 mmol) in dry THF (225 mL). The mixture was stirred 30 minutes and then allowed to reach room temperature during 90 minutes. The reaction mixture was quenched with HCl (1M, 100 mL) and diluted with diisopropylether (250 mL). The water layer was extracted twice with CH2Cl2 (250 mL). The combined organic layers were dried over sodium sulphate, filtered and concentrated. The residue was purified by column chromatography on silica using a gradient from 5 till 100% EtOAc in heptane. The product fractions were concentrated yielding compound 164 (12.6 g) as an oil. Method L; Rt: 1.69 m/z; 202.8 (M−H)− Exact mass: 204.0. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.80-6.01 (m, 1H), 7.42 (tt, J=8.6, 1.8 Hz, 1H), 7.47-7.54 (m, 1H), 8.00 (ddd, J=8.6, 5.1, 1.3 Hz, 1H).

reactant | DAST | 394.4 mmol, 48.3 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | ethyl 3-(2-bromo-5-fluoro-phenyl)-2,2-difluoro-3-hydroxy-propanoate | 86 g | BrC1=C(C=C(C=C1)F)C(C(C(=O)OCC)(F)F)O | C11H10BrF3O3
reactant | NaHCO3 | 1.5 L | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | ethyl 3-(2-bromo-5-fluorophenyl)-2,2,3-trifluoropropanoate | 78.0 g | BrC1=C(C=C(C=C1)F)C(C(C(=O)OCC)(F)F)F | C11H9BrF4O2
